US04129654
3-Phenyl-5,7-dimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione
In 10 ml of dioxane is dissolved 0.5 g of 1,3-dimethyl-6-hydroxyaminouracil. To the solution is added 4 g of benzoic anhydride. The mixture is boiled at 120° C. for 4 hours, after which the dioxane is distilled off. To the residue is added 20 ml of ether and the insolubles are recovered by filtration and washed with ether. By the above procedure is obtained 0.35 g of the captioned compound. As recrystallized from ethanol, the compound melts at 195°-196° C.

reactant | 1,3-dimethyl-6-hydroxyaminouracil | 0.5 g | CN1C(=O)N(C(=O)C=C1NO)C | C6H9N3O3
reactant | benzoic anhydride | 4 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-Phenyl-5,7-dimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione | 0.35 g | C1(=CC=CC=C1)C=1ON=C2N(C(N(C(C21)=O)C)=O)C | C13H11N3O3
